US07939533B2
a) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-hydroxy-propylamino)-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 2.0 g (3.8 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide and 5.6 g (75 mmol) 3-amino-1-propanol was heated at 180° C. under microwave irradiation for 40 min. Dilution with water was followed by extraction with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Flash chromatography gave 1.9 g (87%) of the title compound as a white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 3.8 mmol, 2.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | 3-amino-1-propanol | 75 mmol, 5.6 g | NCCCO | C3H9NO
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-hydroxy-propylamino)-pyridin-3-yl]-N-methyl-isobutyramide | 1.9 g, 87% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)NCCCO)(C)C)(F)F | C28H28F7N3O2
